US09388185B2
7-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)pyrido[2,3-b]pyrazine
The compound was prepared by using procedures analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrido[2,3-b]pyrazine (from Combi-Blocks). LCMS calculated for C23H21N6O2(M+H)+: m/z=413.2. Found 413.2.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrido[2,3-b]pyrazine | CC1(OB(OC1(C)C)C1=CC=2C(=NC=CN2)N=C1)C | C13H16BN3O2
product | 7-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)pyrido[2,3-b]pyrazine | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C3=CC=2C(=NC=CN2)N=C3)C=C(C1)OC | C23H20N6O2
